US04117128
2-n-Butyl-3-[4-(2-hydroxy-3-isopropylaminopropoxy)phenylsulfonyl]benzofuran
2-n-Butyl-3-[4-(2,3-epoxypropoxy)phenylsulfonyl]benzofuran (1.9 g.) was dissolved in 30 ml. of freshly distilled isopropylamine and the solution was heated at 100° for 2 hours. After cooling, the solvent was evaporated to give a residue which was dissolved in chloroform. Evaporation of the solvent gave the title compound.

reactant | 2-n-Butyl-3-[4-(2,3-epoxypropoxy)phenylsulfonyl]benzofuran | 1.9 g | C(CCC)C=1OC2=C(C1S(=O)(=O)C1=CC=C(C=C1)OCC1CO1)C=CC=C2 | C21H22O5S
reactant | isopropylamine | C(C)(C)N | C3H9N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-n-Butyl-3-[4-(2-hydroxy-3-isopropylaminopropoxy)phenylsulfonyl]benzofuran | C(CCC)C=1OC2=C(C1S(=O)(=O)C1=CC=C(C=C1)OCC(CNC(C)C)O)C=CC=C2 | C24H31NO5S
